US06858764B2
2-bromofluorene
In a three-liter flask having four openings equipped with a stirrer, a thermometer, a dropping funnel, and a reflux condenser, respectively, 237 g (1.4 mol) of fluorene, 1 L of water, three drops of a surfactant, and five drops of sulfuric acid were placed and stirred to mix. By adding 230 g (1.4 mol) of bromine into the mixture, a reaction was started. After the reaction had been conducted at room temperature for 5 hours, unreacted bromine was decomposed with an aqueous solution of sodium hydrogen sulfite. The reaction product, which was a light yellow solid, was filtered and thus 334 g of a crude product was obtained. The crude product was dissolved in toluene and was subsequently washed with water and a sodium hydrogencarbonate aqueous solution. The resulting organic liquid was dried using anhydrous magnesium sulfate. After filtration, the liquid was concentrated and then allowed to stand at 0° C., so that a white solid was precipitated. The precipitate was filtered and subsequently washed with toluene, followed by drying. Thus, 287 g (1.1 mol, yield of 82%) of a white solid product was obtained. This product was subjected to gas chromatography and the purity of the product was 98.8%.

reactant | fluorene | 1.4 mol, 237 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | water | 1 L | O | H2O
reactant | bromine | 1.4 mol, 230 g | BrBr | Br2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-bromofluorene | 1.1 mol, 287 g, yield of 82% | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
